US05780636
A solution of 3-(5-methanesulphonyl-pentanoyl)pyridinium methanesulphonate (35.3 g) in tetrahydrofuran (200 ml) is treated with N,N-diisopropylethylamine (39 ml) and the resulting solution is stirred for 10 minutes. It is then treated with thioacetic acid (8.25 ml), dropwise, and the mixture is stirred at ambient temperature for 17 hours. It is then treated with water (200 ml), the mixture is stirred for 5 minutes, and the product is then extracted into toluene (150 ml;75 ml). The combined organic solution is washed with aqueous sodium chloride solution (250 ml), dried over magnesium sulphate and filtered. The filtrate is extracted with hydrochloric acid (1N;2×125 ml). The acid solution is then stirred at reflux for 2 hours, cooled to room temperature and washed with toluene (50 ml). The aqueous layer is stirred with charcoal (0.5 g) and filtered. This filtrate is stirred with dichloromethane (75 ml) and it is then treated with aqueous sodium hydroxide solution until the pH is between 10 and 11. The organic layer is separated and the aqueous fraction is extracted with dichloromethane (75 ml). The combined organic solution is dried over magnesium sulphate and filtered. The filtrate is added to a solution of diethyl L-tartrate (45.34 g) in dichloromethane (176ml), followed by a solution of titanium isopropoxide (16.36 ml) in dichloromethane (24 ml), and the solution is cooled to between -19° C. and -21°C. under an atmosphere of nitrogen. It is then treated with a solution of cumene hydroperoxide (24.42 ml) in dichloromethane (22 ml) is added during 20 minutes keeping the mixture between -19° C. and -21° C., then the mixture is stirred at this temperature for 7 hours. It is then treated with dilute hydrochloric acid (1N;250 ml) and the mixture is warmed to room temperature with stirring. The aqueous fraction is separated and washed with dichloromethane (125 ml), then treated with tartaric acid (7.5 g) and toluene (156 ml). The pH is adjusted to 10 by treatment with aqueous sodium hydroxide solution and the toluene fraction is removed. The aqueous fraction is extracted with dichloromethane (5×156 ml), adjusting the pH to 10 for each extraction. The combined dichloromethane and toluene solutions are washed with an aqueous solution of sodium disulphite saturated with sodium chloride, then dried over magnesium sulphate, filtered and concentrated under reduced pressure, to give crude (R)-6-(3-pyridyl)-3,4-dihydro-2H-thiopyran 1-oxide (12.48 g) in the form of a yellow oil.

reactant | 3-(5-methanesulphonyl-pentanoyl)pyridinium methanesulphonate | 35.3 g | CS(=O)(=O)[O-].CS(=O)(=O)CCCCC(=O)C=1C=[NH+]C=CC1
reactant | N,N-diisopropylethylamine | 39 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thioacetic acid | 8.25 ml | C(C)(=S)O | C2H4OS
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (R)-6-(3-pyridyl)-3,4-dihydro-2H-thiopyran 1-oxide | 12.48 g | N1=CC(=CC=C1)C1=CCCC[S@]1=O | C10H11NOS
